US07423042B2
c) Phenyl N-cyano-N′-(2-{[4-(2,4-difluorophenyl)-8-(2-fluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}ethyl)imidocarbamate
To a solution of 2-[(2-aminoethyl)amino]-4-(2,4-difluorophenyl)-8-(2-fluorophenyl)pyrido[2,3-d]pyrimidin-7(8H)-one (28 mg, 0.070 mmol) in isopropanol (2 mL) was added diphenyl cyanocarbonimidate (17 mg, 0.070 mmol). The mixture was stirred for about 30 min at about 20° C. LC/MS showed a new peak corresponding to the desired product and no starting material in the solution. LC-MS m/z 556 (M+H)+, 3.24 min (ret time).

reactant | 2-[(2-aminoethyl)amino]-4-(2,4-difluorophenyl)-8-(2-fluorophenyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.070 mmol, 28 mg | NCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2)F)C2=C(C=C(C=C2)F)F | C21H16F3N5O
reactant | diphenyl cyanocarbonimidate | 0.070 mmol, 17 mg | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | Phenyl N-cyano-N′-(2-{[4-(2,4-difluorophenyl)-8-(2-fluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-2-yl]amino}ethyl)imidocarbamate | C(#N)NC(OC1=CC=CC=C1)=NCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2)F)C2=C(C=C(C=C2)F)F | C29H20F3N7O2
